US08440837B2
Step 2: Intermediate—14: 2-Phenylethynyl-thiazole-5-carboxylic acid
A solution of 2-phenylethynyl-thiazole-5-carboxylic acid ethyl ester (9.00 g, 35.0 mmol), lithium hydroxide (13.5 g, 563 mmol), tetrahydrofuran (190 mL) and water (143 mL) was stirred at 25° C. for 64 h. The material was concentrated to remove most of the THF, taken up in 350 mL of water and washed with EtOAc (3×50 mL); acidified with 3.7% HCl to pH<1 and the precipitate extracted with 3×100 mL of EtOAc. The combined EtOAc extracts were washed with 50 mL of water, 50 mL of brine, dried (Na2SO4) and concentrated to give the titled compound, 2-phenylethynyl-thiazole-5-carboxylic acid (7.79 g; 97%), as a yellow powder, which was used without further purification in the next step. 1H NMR (400 MHz, DMSO-d6) δ 8.53 (s, 1H), 7.69-7.60 (m, 2H), 7.51-7.38 (m, 3H). LC/MS (Method 1), RT=0.57 min. Calculated [M+H]+=230; Observed [M+H]+=230.

reactant | 2-phenylethynyl-thiazole-5-carboxylic acid ethyl ester | 35.0 mmol, 9.00 g | C(C)OC(=O)C1=CN=C(S1)C#CC1=CC=CC=C1 | C14H11NO2S
reactant | lithium hydroxide | 563 mmol, 13.5 g | [OH-].[Li+]
reactant | tetrahydrofuran | 190 mL | O1CCCC1 | C4H8O
solvent | water | 143 mL | O | H2O
product | 2-phenylethynyl-thiazole-5-carboxylic acid | 7.79 g, 97% | C1(=CC=CC=C1)C#CC=1SC(=CN1)C(=O)O | C12H7NO2S
